2196-10-19 07:25:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Had some hypotension to SBP 80s while sleeping, increased to SBP 100s
   when patient awakened.
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Linezolid - [**2196-10-18**] 09:14 PM
   Ciprofloxacin - [**2196-10-18**] 09:14 PM
   Piperacillin - [**2196-10-19**] 12:45 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-10-19**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 35.6
C (96
   HR: 79 (74 - 100) bpm
   BP: 101/44(58) {78/35(47) - 128/57(104)} mmHg
   RR: 20 (20 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.1 kg (admission): 83.1 kg
             Total In:
                                                                  5,179 mL
                                                                  1,234 mL
   PO:
             TF:
   IVF:
                                                                  1,879 mL
                                                                  1,234 mL
   Blood products:
   Total out:
                                                                    465 mL
                                                                    550 mL
   Urine:
                                                                    465 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,714 mL
                                                                    684 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: 7.40/42/65/23/0
   Physical Examination
   GENERAL:Chronically ill-appearing elderly man in NAD
   HEENT: Normocephalic, atraumatic. Anicteric sclerae. PERRL 5mm-->4mm.
   Will not open mouth.
   NECK: Generally increased muscle tone, including in neck.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 1792**]. JVP unable to interperate [**1-25**] body habitus
   LUNGS: diffuse rhonchi, transmitted upper airway sounds, wheezes in
   left lung field.
   ABDOMEN: NABS. Soft, NT, ND. No HSM G-tube in place with mild erthema
   around insertion site.
   EXTREMITIES: Warm hands and feet. No edema or calf pain, 2+ left
   dorsalis pedis/bilateral radial pulses. Right DP decreased.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: Opens eyes to sternal rub. Says
. PERRL, face symmetric,
   otherwise difficult to assess cranial nerves. Increased tone in all 4
   extremities. Spontaneously moves upper extremities. Minimal movement of
   left lower extremity. No movement of right lower extremity. No response
   to painful stimuli in any extremity.
   ACCESS: PIV x 2
   Labs / Radiology
   203 K/uL
   10.1 g/dL
   120 mg/dL
   0.8 mg/dL
   23 mEq/L
   4.2 mEq/L
   48 mg/dL
   113 mEq/L
   148 mEq/L
   31.9 %
   17.0 K/uL
        [image002.jpg]
                            [**2196-10-18**]  06:00 PM
                            [**2196-10-18**]  08:28 PM
                            [**2196-10-18**]  09:00 PM
                            [**2196-10-19**]  04:29 AM
   WBC
   17.0
   Hct
   31.9
   Plt
   203
   Cr
   1.0
   0.8
   TCO2
   27
   Glucose
   195
   235
   120
   Other labs: PT / PTT / INR:13.9/23.7/1.2, CK / CKMB / Troponin-T:32//,
   ALT / AST:41/29, Alk Phos / T Bili:102/0.4, Differential-Neuts:82.8 %,
   Lymph:9.9 %, Mono:4.6 %, Eos:2.3 %, Lactic Acid:3.9 mmol/L, LDH:201
   IU/L, Ca++:7.8 mg/dL, Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   #. Fever, Leukocystosis. Differential diagnosis includes pneumonia,
   UTI, G-tube infection. Aspiration PNA most likely given patient
   history. Pt appears rhonchorous on exam with witnessed poor secretion
   clearing. The CXR is fairly benign but there appears to be upper lobe
   infiltrates which may be underestimated in the setting of dehydration.
   Given history of pseudomonal and MSSA PNA and chronic nursing home
   resident covering broadly for HAP. Flu is also possible in this living
   situation, although no report of outbreak at [**Hospital3 213**]. Urine also
   posssble source of infection but UA may represent chronic colonization.
   The PEG tube site appears mildly erthyethmatous, it was replaced 2
   weeks ago. Benign abd exam suggests against intra-abd process. MS
   appears near baseline making CNS infection less likely, although
   difficult to perform neurologic exam given patient
s low baseline.
   Urine legionella antigen negative. Sputum gram stain with 4+, multiple
   organisms, consistent with oropharyngeal flora.
   - Linezolid (allergy to vanco), zosyn, and Cipro (to double cover
   resistent Gram neg infection)
   - albuterol/ipratropium nebs PRN
   - f/u flu with DFA, maintain on precautions until flu ruled out
   - f/u sputum, urine, blood cultures
   - f/u radiology interpretation of new CXR
   - NPO including TF
   - trend WBC
   - trend lactate
   - aspiration and droblet precautions.
   .
   #. Positive UA: Unclear if this represents a source of infection or
   chronic colonization. Foley in for urinary retention, duration
   approximately 3 weeks.
   - f/u culture
   - replace OSH foley with new one
   - board spectrum abx for PNA will cover urinary pathogen
   - consider d/c scopolamine patch if secretions OK to reduce urinary
   retension
   .
   #.  Hypernatremia: chronic but elevated from baseline in low 140s.
   Likely hypovolemic hypernatremia given infection and dementia.
   - urine osm
   - IVF
   - trend [**Hospital1 **]
   - titrate IVF to UO, MAP > 60
   .
   # Anion gap metabolic acidosis: Likely lactic acidosis.
   - trend lactate, 3.8 last draw.
   .
   #. Seizure disorder, since age 15. Chronically on Phenobarbital.
   - continue phenobarbital
   - check level
   .
   #. Dementia: per brother non-verbal chronically. Per [**Hospital3 **]
   able to speak in short sentences although disoriented. worsening MS
   likely [**1-25**] to infection / dehydration.
   - frequent reorientation, minimize disruption to sleep wake cycle.
   - trend MS.
   .
   #. paroxsymal V-tach: monitor on tele
   .
   #. constipation: stooled today per OSH nuring. Continue home BM regimen
   .
   ICU Care
   Nutrition: IVF titrated to MAP > 60, UO > .5mg/kg/hr, hold TF given
   aspiration
   Glycemic Control:
   Lines:
   20 Gauge - [**2196-10-18**] 05:00 PM
   18 Gauge - [**2196-10-18**] 06:53 PM
   Prophylaxis:  Bowel regimen Senna, colace, bisacodyl. Pain management
   with tylenol
   DVT: DVT ppx with  heparin SQ
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: [**Name (NI) 424**] [**Name (NI) **] HCP brother. [**Telephone/Fax (1) 4064**]
   Code status: DNR/ intubation, pressors ok
   Disposition: ICU for now

2196-10-19 09:19:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Experienced transient hypotension while sleeping, improved with
   awakening.
   Somewhat more awake, moaning to attempts to move.
   Opens eyes spontaneously.
   History obtained from Medical records
   Patient unable to provide history: Dementia, Non-commmunicative
   presently
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Linezolid - [**2196-10-18**] 09:14 PM
   Ciprofloxacin - [**2196-10-18**] 09:14 PM
   Piperacillin - [**2196-10-19**] 12:45 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2196-10-19**] 09:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 35.6
C (96
   HR: 79 (74 - 100) bpm
   BP: 101/44(58) {78/35(47) - 128/57(104)} mmHg
   RR: 20 (20 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.1 kg (admission): 83.1 kg
             Total In:
                                                                  5,179 mL
                                                                  1,248 mL
   PO:
             TF:
   IVF:
                                                                  1,879 mL
                                                                  1,248 mL
   Blood products:
   Total out:
                                                                    465 mL
                                                                    550 mL
   Urine:
                                                                    465 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,714 mL
                                                                    698 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: 7.40/42/65/23/0
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic,
   Appears chronically ill
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube, Poor gag
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, No(t) Distant, No(t) Loud, No(t) Widely
   split , No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t)
   Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous:
   diffusely)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, PEG tube LUQ; Right paramedial ventral
   hernia (reducible)
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing, Marked contractures of
   legs
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful
   movement of eyes, No(t) Sedated, No(t) Paralyzed, Tone: Increased,
   Unable to communicate; Contractures of arms and legs
   Labs / Radiology
   10.1 g/dL
   203 K/uL
   120 mg/dL
   0.8 mg/dL
   23 mEq/L
   4.2 mEq/L
   48 mg/dL
   113 mEq/L
   148 mEq/L
   31.9 %
   17.0 K/uL
        [image002.jpg]
                            [**2196-10-18**]  06:00 PM
                            [**2196-10-18**]  08:28 PM
                            [**2196-10-18**]  09:00 PM
                            [**2196-10-19**]  04:29 AM
   WBC
   17.0
   Hct
   31.9
   Plt
   203
   Cr
   1.0
   0.8
   TCO2
   27
   Glucose
   195
   235
   120
   Other labs: PT / PTT / INR:13.9/23.7/1.2, CK / CKMB / Troponin-T:32//,
   ALT / AST:41/29, Alk Phos / T Bili:102/0.4, Differential-Neuts:82.8 %,
   Lymph:9.9 %, Mono:4.6 %, Eos:2.3 %, Lactic Acid:3.9 mmol/L, LDH:201
   IU/L, Ca++:7.8 mg/dL, Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   84 yom advanced dementia, recurrent aspiration PNA, and recurrent UTIs
   presents with fever and increasing respiratory distress.
   SEPSIS -- Initially attributed to urinary source.  However, CXR
   demonstrates evolving  infiltrates of LUL > RUL fields (high risk for
   aspiration, with altered mental status and absence gag).  Also consider
   PEG tube site infecton.  Responded to current level of support.
   PULMONARY INFILTRATES -- evolved since admission.  [**Month (only) 60**] reflect
   "blossoming" of pneumonia in the context of dehydration and with
   resussitation of fluids.  Suspect pneumonia, aspiration.  Also consider
   viral (influenza).  Plan continue antimicrobials.  Await culture
   results, respiratory and urinary antigens.
   ALTERED MENTAL STATUS -- reportedly with baseline of non-communicative
   to poorly communicative (reportedly able to answer with "yes" or
   "no").  Worsening currently may be due in part to infection/sepsis
   (toxic-metabolic), hypernatremia.  Consider possibility of post-ictal,
   but no obvious seizure activity noted.  Doubt meningitis or
   encephalitis.  Would d/c scopalamine patch.   Monitor mental status.
   HYPOTENSION -- attributed to hypovolemia and sepsis.  Consider
   component of adrenal insufficiency.  Improved with iv fluids.  Monitor
   BP, maintain MAP > 60 mmHg
   RENAL FUNCTION -- insufficiency attributed to pre-renal state
   (hypovolemia, sepsis).  Improved.
   FLUIDS -- hypovolemia.  Continue net fluid resussitation.  Currently
   peripheral iv's.
   HYPERNATREMIA -- recurrent, attributed to relative free water loss.
   Replete free water (based on free water deficit), monitor Na.
   LACTIC ACIDOSIS -- attributed to sepsis, hypoperfusion.  Monitor
   lactcate during ressussitation.
   h/o SEIZURE DISORDER -- no apparent active disease.  Continue
   anticonvulsant (phenobarbitol), check level.  Consider EEG if fails to
   return to baseline mental status.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2196-10-18**] 05:00 PM
   18 Gauge - [**2196-10-18**] 06:53 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2196-10-20 07:10:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 MIDLINE - START [**2196-10-19**] 12:00 PM
   -1/4 bottles BCx + for GPCs in clusters (might be contaminant)
   -midline placed
   -got many ABGs, lactate down from 3.9--> 3.4
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Piperacillin - [**2196-10-19**] 12:45 AM
   Ciprofloxacin - [**2196-10-19**] 08:00 PM
   Linezolid - [**2196-10-19**] 09:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2196-10-20**] 04:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-10-20**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.2
C (97.2
   HR: 75 (57 - 83) bpm
   BP: 118/74(79) {84/40(52) - 139/116(123)} mmHg
   RR: 16 (16 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 86 kg (admission): 83.1 kg
   Height: 70 Inch
             Total In:
                                                                  5,346 mL
                                                                  1,477 mL
   PO:
             TF:
   IVF:
                                                                  4,616 mL
                                                                  1,237 mL
   Blood products:
   Total out:
                                                                  1,270 mL
                                                                    750 mL
   Urine:
                                                                  1,270 mL
                                                                    750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,076 mL
                                                                    727 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   SpO2: 98%
   ABG: 7.38/39/58/19/-1
   PaO2 / FiO2: 166
   Physical Examination
   GENERAL:Chronically ill-appearing elderly man in NAD
   HEENT: Normocephalic, atraumatic. Anicteric sclerae. PERRL 5mm-->4mm.
   Will not open mouth.
   NECK: Generally increased muscle tone, including in neck.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 1792**]. JVP unable to interperate [**1-25**] body habitus
   LUNGS: diffuse rhonchi, transmitted upper airway sounds, wheezes in
   left lung field.
   ABDOMEN: NABS. Soft, NT, ND. No HSM G-tube in place with mild erthema
   around insertion site.
   EXTREMITIES: Warm hands and feet. No edema or calf pain, 2+ left
   dorsalis pedis/bilateral radial pulses. Right DP decreased.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: Opens eyes to sternal rub. Says
. PERRL, face symmetric,
   otherwise difficult to assess cranial nerves. Increased tone in all 4
   extremities. Spontaneously moves upper extremities. Minimal movement of
   left lower extremity. No movement of right lower extremity. No response
   to painful stimuli in any extremity.
   ACCESS: PIV x 2
   Labs / Radiology
   203 K/uL
   10.1 g/dL
   191 mg/dL
   1.0 mg/dL
   19 mEq/L
   4.4 mEq/L
   40 mg/dL
   108 mEq/L
   144 mEq/L
   31.9 %
   17.0 K/uL
        [image002.jpg]
                            [**2196-10-18**]  06:00 PM
                            [**2196-10-18**]  08:28 PM
                            [**2196-10-18**]  09:00 PM
                            [**2196-10-19**]  04:29 AM
                            [**2196-10-19**]  02:54 PM
                            [**2196-10-19**]  08:10 PM
   WBC
   17.0
   Hct
   31.9
   Plt
   203
   Cr
   1.0
   0.8
   1.0
   TCO2
   27
   24
   Glucose
   195
   235
   120
   191
   Other labs: PT / PTT / INR:13.9/23.7/1.2, CK / CKMB / Troponin-T:32//,
   ALT / AST:41/29, Alk Phos / T Bili:102/0.4, Differential-Neuts:82.8 %,
   Lymph:9.9 %, Mono:4.6 %, Eos:2.3 %, Lactic Acid:3.4 mmol/L, LDH:201
   IU/L, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   #. Fever, Leukocystosis. Differential diagnosis includes pneumonia,
   UTI, G-tube infection. Aspiration PNA most likely given patient
   history. Pt appears rhonchorous on exam with witnessed poor secretion
   clearing. The CXR is fairly benign but there appears to be upper lobe
   infiltrates which may be underestimated in the setting of dehydration.
   Given history of pseudomonal and MSSA PNA and chronic nursing home
   resident covering broadly for HAP. Flu is also possible in this living
   situation, although no report of outbreak at [**Hospital3 213**]. Urine also
   posssble source of infection but UA may represent chronic colonization.
   The PEG tube site appears mildly erthyethmatous, it was replaced 2
   weeks ago. Benign abd exam suggests against intra-abd process. MS
   appears near baseline making CNS infection less likely, although
   difficult to perform neurologic exam given patient
s low baseline.
   Urine legionella antigen negative. Sputum gram stain with 4+, multiple
   organisms, consistent with oropharyngeal flora. Had  Foley x 3 weeks
   (placed for urinary retention), changed on admission.
   - Linezolid (allergy to vanco), zosyn, and Cipro (to double cover
   resistent Gram neg infection)
   - albuterol/ipratropium nebs PRN
   - f/u flu with DFA, maintain on precautions until flu ruled out
   - f/u sputum, blood cultures
   - NPO excluding free water flushes
   - trend WBC
   - trend lactate
   - aspiration precautions
   - f/u urine cultures
   - d/c scopolamine in setting of urinary retention
   - trend lactate
   .
   #.  Hypernatremia: Na improved to 148 from 152 on admission.
   - continue IV 1/2NS at 200 cc/hr
   - free water flushes via G-tube
   - [**Hospital1 **] lytes
   .
   #. Seizure disorder, since age 15. Chronically on Phenobarbital.
   - continue phenobarbital
   - check level
   .
   #. Dementia: per brother non-verbal chronically. Per [**Hospital3 **]
   able to speak in short sentences although disoriented. worsening MS
   likely [**1-25**] to infection / dehydration.
   - frequent reorientation, minimize disruption to sleep wake cycle.
   - trend MS.
   - avoid anticholinergics
 d/c scopolamine patch
   .
   #. h/o paroxsymal V-tach: monitor on tele
   ICU Care
   Nutrition: IVF titrated to MAP > 60, UO > .5mg/kg/hr, hold TF given
   aspiration
   Glycemic Control:  sliding scale insulin
   Lines:
   20 Gauge - [**2196-10-18**] 05:00 PM
   18 Gauge - [**2196-10-18**] 06:53 PM
   Prophylaxis:  Bowel regimen Senna, colace, bisacodyl. Pain management
   with tylenol
   DVT: DVT ppx with  heparin SQ
   Stress ulcer: lansoprazole
   VAP:
   Comments:
   Communication:  Comments: [**Name (NI) 424**] [**Name (NI) **] HCP brother. [**Telephone/Fax (1) 4064**]
   Code status: DNR/ intubation, pressors ok
   Disposition: ICU for now

2196-10-20 11:47:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Eyes open.  Moans and 'grunts' with stimulation.  States "no" to
   questions about pain.
   Appears comfortable.
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy, Dementia
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Piperacillin - [**2196-10-19**] 12:45 AM
   Piperacillin/Tazobactam (Zosyn) - [**2196-10-20**] 04:00 AM
   Ciprofloxacin - [**2196-10-20**] 08:15 AM
   Linezolid - [**2196-10-20**] 09:05 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2196-10-20**] 08:28 AM
   Heparin Sodium (Prophylaxis) - [**2196-10-20**] 08:28 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation, PEG
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2196-10-20**] 11:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.3
C (97.3
   HR: 71 (57 - 82) bpm
   BP: 103/48(61) {84/40(52) - 139/116(123)} mmHg
   RR: 20 (16 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.3 kg (admission): 83.1 kg
   Height: 70 Inch
             Total In:
                                                                  5,346 mL
                                                                  2,768 mL
   PO:
             TF:
   IVF:
                                                                  4,616 mL
                                                                  2,438 mL
   Blood products:
   Total out:
                                                                  1,270 mL
                                                                    970 mL
   Urine:
                                                                  1,270 mL
                                                                    970 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,076 mL
                                                                  1,798 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 96%
   ABG: 7.38/39/58/20/-1
   PaO2 / FiO2: 166
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: No(t) Symmetric, No(t) Paradoxical),
   (Percussion: No(t) Resonant : , No(t) Hyperresonant: , No(t) Dullness :
   ), (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, PEG
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, No(t) Cyanosis, No(t) Clubbing, Marked contractures.
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice, Healed presacral decub
   ulcers, abrassion.
   Neurologic: Attentive, No(t) Follows simple commands, Responds to:
   Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful (eyes),
   No(t) Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.2 g/dL
   175 K/uL
   185 mg/dL
   0.7 mg/dL
   20 mEq/L
   3.1 mEq/L
   24 mg/dL
   106 mEq/L
   139 mEq/L
   29.0 %
   10.4 K/uL
        [image002.jpg]
                            [**2196-10-18**]  06:00 PM
                            [**2196-10-18**]  08:28 PM
                            [**2196-10-18**]  09:00 PM
                            [**2196-10-19**]  04:29 AM
                            [**2196-10-19**]  02:54 PM
                            [**2196-10-19**]  08:10 PM
                            [**2196-10-20**]  08:58 AM
   WBC
   17.0
   10.4
   Hct
   31.9
   29.0
   Plt
   203
   175
   Cr
   1.0
   0.8
   1.0
   0.7
   TCO2
   27
   24
   Glucose
   195
   235
   120
   191
   185
   Other labs: PT / PTT / INR:13.9/23.7/1.2, CK / CKMB / Troponin-T:380//,
   ALT / AST:27/22, Alk Phos / T Bili:87/0.2, Differential-Neuts:82.8 %,
   Lymph:9.9 %, Mono:4.6 %, Eos:2.3 %, Lactic Acid:3.3 mmol/L, LDH:148
   IU/L, Ca++:7.7 mg/dL, Mg++:1.8 mg/dL, PO4:2.3 mg/dL
   Microbiology: URINE GNR
   BLOOD GPC, clusters
   Assessment and Plan
   84 yom advanced dementia, recurrent aspiration PNA, and recurrent UTIs
   presents with fever and increasing respiratory distress.
   SEPSIS -- Possible urinary source (GNR), although concern remains for
   pneumonia ( infiltrates of LUL > RUL fields --> high risk for
   aspiration, with altered mental status and absence gag).  Also consider
   PEG tube site infecton.  Responded to current level of support.
   PULMONARY INFILTRATES -- evolved since admission.  [**Month (only) 60**] reflect
   "blossoming" of pneumonia in the context of dehydration and with
   resussitation of fluids.  Suspect pneumonia, aspiration.  Also consider
   viral (influenza).  Plan continue antimicrobials.  Await culture
   results, respiratory and urinary antigens.
   ALTERED MENTAL STATUS -- reportedly with baseline of non-communicative
   to poorly communicative (reportedly able to answer with "yes" or
   "no").  Worsening currently may be due in part to infection/sepsis
   (toxic-metabolic), hypernatremia.  Consider possibility of post-ictal,
   but no obvious seizure activity noted.  Doubt meningitis or
   encephalitis.  Would d/c scopalamine patch.   Monitor mental status.
   HYPOTENSION -- attributed to hypovolemia and sepsis.  Consider
   component of adrenal insufficiency.  Improved with iv fluids.  Monitor
   BP, maintain MAP > 60 mmHg
   RENAL FUNCTION -- insufficiency attributed to pre-renal state
   (hypovolemia, sepsis).  Improved.
   ELEVATED CPK
 monitor serial CPK, recheck LFTs, cardiac enzymes.
   FLUIDS -- hypovolemia.  Continue net fluid resussitation.  Currently
   peripheral iv's.
   HYPERNATREMIA -- recurrent, attributed to relative free water loss.
   Replete free water (based on free water deficit), monitor Na.
   LACTIC ACIDOSIS -- attributed to sepsis, hypoperfusion.  Monitor
   lactcate during ressussitation.  Improving.
   h/o SEIZURE DISORDER -- no apparent active disease.  Continue
   anticonvulsant (phenobarbitol), check level.  Consider EEG if fails to
   return to baseline mental status.
   NUTRITIONAL SUPPORT -- TF.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2196-10-19**] 12:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2196-10-21 08:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MIDLINE - STOP [**2196-10-20**] 02:30 PM
 PICC LINE - START [**2196-10-20**] 03:00 PM
 CALLED OUT
   Lactate decreased to 1.8 after 5.8 L positive yesterday.
   History obtained from Medical records
   Allergies:
   History obtained from Medical recordsVancomycin
   Rash;
   Last dose of Antibiotics:
   Piperacillin - [**2196-10-19**] 12:45 AM
   Ciprofloxacin - [**2196-10-20**] 08:00 PM
   Linezolid - [**2196-10-20**] 09:01 PM
   Piperacillin/Tazobactam (Zosyn) - [**2196-10-21**] 04:31 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2196-10-20**] 08:28 AM
   Heparin Sodium (Prophylaxis) - [**2196-10-20**] 11:13 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-10-21**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.7
C (98
   HR: 73 (58 - 82) bpm
   BP: 113/52(67) {86/38(51) - 118/60(95)} mmHg
   RR: 25 (17 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 93.6 kg (admission): 83.1 kg
   Height: 70 Inch
             Total In:
                                                                  5,807 mL
                                                                  1,210 mL
   PO:
             TF:
                                                                    190 mL
                                                                    440 mL
   IVF:
                                                                  4,797 mL
                                                                    770 mL
   Blood products:
   Total out:
                                                                  2,390 mL
                                                                    880 mL
   Urine:
                                                                  2,390 mL
                                                                    880 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,417 mL
                                                                    330 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 98%
   ABG: ///24/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   BL) R > L expiratory wheeze
   Abdominal: Soft, Non-tender, PEG with unchanged erthema, ventral hernia
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): xo,
   Movement: Not assessed, Tone: Increased
   Labs / Radiology
   171 K/uL
   8.7 g/dL
   140 mg/dL
   0.6 mg/dL
   24 mEq/L
   4.0 mEq/L
   15 mg/dL
   114 mEq/L
   144 mEq/L
   26.9 %
   6.9 K/uL
        [image002.jpg]
                            [**2196-10-18**]  06:00 PM
                            [**2196-10-18**]  08:28 PM
                            [**2196-10-18**]  09:00 PM
                            [**2196-10-19**]  04:29 AM
                            [**2196-10-19**]  02:54 PM
                            [**2196-10-19**]  08:10 PM
                            [**2196-10-20**]  08:58 AM
                            [**2196-10-21**]  03:55 AM
   WBC
   17.0
   10.4
   6.9
   Hct
   31.9
   29.0
   26.9
   Plt
   [**Telephone/Fax (3) 10702**]
   Cr
   1.0
   0.8
   1.0
   0.7
   0.6
   TCO2
   27
   24
   Glucose
   195
   235
   120
   191
   185
   140
   Other labs: PT / PTT / INR:14.5/27.5/1.3, CK / CKMB / Troponin-T:367//,
   ALT / AST:27/22, Alk Phos / T Bili:87/0.2, Differential-Neuts:80.1 %,
   Lymph:11.6 %, Mono:4.2 %, Eos:3.9 %, Lactic Acid:1.8 mmol/L,
   Albumin:2.5 g/dL, LDH:148 IU/L, Ca++:7.4 mg/dL, Mg++:2.0 mg/dL, PO4:2.0
   mg/dL
   Imaging: CXR: Successful placement of a new PIC via the right basilic
   vein with tip
   terminating in the SVC. The line is ready to use. The old PIC was
   removed.
   Microbiology: [**2196-10-19**] 1:00 pm Influenza A/B by DFA     Site:
   NASOPHARYNX
                               **FINAL REPORT [**2196-10-19**]**
      DIRECT INFLUENZA A ANTIGEN TEST (Final [**2196-10-19**]):
         Negative for Influenza A.
      DIRECT INFLUENZA B ANTIGEN TEST (Final [**2196-10-19**]):
         Negative for Influenza B.
   .
   [**2196-10-18**] 11:29 pm STOOL     CONSISTENCY: SOFT      Source: Stool.
                               **FINAL REPORT [**2196-10-20**]**
      CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Final [**2196-10-20**]):
         Feces negative for C.difficile toxin A & B by EIA.
              (Reference Range-Negative).
   .
   [**2196-10-18**] 5:18 pm SPUTUM     Site: INDUCED      Source: Induced.
      GRAM STAIN (Final [**2196-10-18**]):
         >25 PMNs and <10 epithelial cells/100X field.
         4+   (>10 per 1000X FIELD):   MULTIPLE ORGANISMS CONSISTENT
   WITH
                                       OROPHARYNGEAL FLORA.
      RESPIRATORY CULTURE (Preliminary):
         SPARSE GROWTH Commensal Respiratory Flora.
         Due to mixed bacterial types ( >= 3 colony types) an abbreviated
         workup will be performed appropriate to the isolates recovered
   from
         this site.
         BETA STREPTOCOCCI, NOT GROUP A.    SPARSE GROWTH.
         STAPH AUREUS COAG +.    SPARSE GROWTH.
         PSEUDOMONAS AERUGINOSA.    SPARSE GROWTH.
      LEGIONELLA CULTURE (Preliminary):    NO LEGIONELLA ISOLATED.
      FUNGAL CULTURE (Preliminary):
   .
   [**2196-10-18**] 12:51 pm URINE     Site: CLEAN CATCH
                               **FINAL REPORT [**2196-10-20**]**
      URINE CULTURE (Final [**2196-10-20**]):
         Culture workup discontinued. Further incubation showed
   contamination
         with mixed fecal flora. Clinical significance of isolate(s)
         uncertain. Interpret with caution.
         GRAM NEGATIVE ROD(S).    >100,000 ORGANISMS/ML..
   .
   [**2196-10-18**] 12:51 pm BLOOD CULTURE      #2.
      Blood Culture, Routine (Preliminary):
         STAPHYLOCOCCUS, COAGULASE NEGATIVE.    ISOLATED FROM ONE SET
   ONLY.
            SENSITIVITIES PERFORMED ON REQUEST..
      Anaerobic Bottle Gram Stain (Final [**2196-10-19**]):
         GRAM POSITIVE COCCI IN CLUSTERS.
         REPORTED BY PHONE TO [**Doctor First Name 10703**] [**Doctor Last Name **] AT 1711 ON [**2196-10-19**] .
   Assessment and Plan
   #. Fever, Leukocystosis. Differential diagnosis includes pneumonia,
   UTI, G-tube infection. Aspiration PNA most likely given patient
   history. Pt appears rhonchorous on exam with witnessed poor secretion
   clearing. The CXR is fairly benign but there appears to be upper lobe
   infiltrates which may be underestimated in the setting of dehydration.
   Given history of pseudomonal and MSSA PNA and chronic nursing home
   resident covering broadly for HAP. Influenza negative. Urine also
   posssble source of infection but UA may represent chronic colonization.
   The PEG tube site appears mildly erthyethmatous, it was replaced 2
   weeks ago. Benign abd exam suggests against intra-abd process. MS
   appears near baseline making CNS infection less likely, although
   difficult to perform neurologic exam given patient
s low baseline.
   Urine legionella antigen negative. Sputum gram stain with 4+, multiple
   organisms, consistent with oropharyngeal flora. Had  Foley x 3 weeks
   (placed for urinary retention), changed on admission.
   - Linezolid (allergy to vanco), zosyn, and Cipro (to double cover
   resistent Gram neg infection)
   - albuterol/ipratropium nebs PRN
   - f/u sputum, urine, blood cultures
   - consider TTE if has GPCs are staph
   - NPO excluding free water flushes
   - trend WBC, lactate
   - aspiration precautions
   .
   #.  Hypernatremia: Resolved.
   - continue free water flushes
   .
   #. Seizure disorder, since age 15. Chronically on Phenobarbital.
   - continue phenobarbital
   .
   #. Dementia: per brother non-verbal chronically. Per [**Hospital3 **]
   able to speak in short sentences although disoriented. worsening MS
   likely [**1-25**] to infection / dehydration.
   - frequent reorientation, minimize disruption to sleep wake cycle.
   - trend MS.
   - avoid anticholinergics
 d/c scopolamine patch
   .
   #. h/o paroxsymal V-tach: monitor on tele
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2196-10-20**] 05:30 PM 60 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2196-10-20**] 03:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR (do not resuscitate)
   Disposition:Transfer to floor

2196-10-21 11:24:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Mental status continues to improve.  More awake. More alert.
   Answers "yes" and "no"
   Repeats "Nice to see you"
   History obtained from [**Hospital 85**] Medical records
   Patient unable to provide history: Encephalopathy, Dementia
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Piperacillin - [**2196-10-19**] 12:45 AM
   Piperacillin/Tazobactam (Zosyn) - [**2196-10-21**] 04:31 AM
   Ciprofloxacin - [**2196-10-21**] 08:09 AM
   Linezolid - [**2196-10-21**] 09:09 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2196-10-21**] 08:22 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2196-10-21**] 11:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 35.9
C (96.6
   HR: 85 (65 - 85) bpm
   BP: 111/44(61) {86/38(51) - 120/60(95)} mmHg
   RR: 26 (17 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 93.6 kg (admission): 83.1 kg
   Height: 70 Inch
             Total In:
                                                                  5,807 mL
                                                                  2,196 mL
   PO:
             TF:
                                                                    190 mL
                                                                    641 mL
   IVF:
                                                                  4,797 mL
                                                                  1,555 mL
   Blood products:
   Total out:
                                                                  2,390 mL
                                                                  1,100 mL
   Urine:
                                                                  2,390 mL
                                                                  1,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,417 mL
                                                                  1,096 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///24/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, PEG
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, No(t) Follows simple commands, Responds to:
   Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal, Contractures of legs (L > R)
   Labs / Radiology
   8.7 g/dL
   171 K/uL
   140 mg/dL
   0.6 mg/dL
   24 mEq/L
   4.0 mEq/L
   15 mg/dL
   114 mEq/L
   144 mEq/L
   26.9 %
   6.9 K/uL
        [image002.jpg]
                            [**2196-10-18**]  06:00 PM
                            [**2196-10-18**]  08:28 PM
                            [**2196-10-18**]  09:00 PM
                            [**2196-10-19**]  04:29 AM
                            [**2196-10-19**]  02:54 PM
                            [**2196-10-19**]  08:10 PM
                            [**2196-10-20**]  08:58 AM
                            [**2196-10-21**]  03:55 AM
   WBC
   17.0
   10.4
   6.9
   Hct
   31.9
   29.0
   26.9
   Plt
   [**Telephone/Fax (3) 10702**]
   Cr
   1.0
   0.8
   1.0
   0.7
   0.6
   TCO2
   27
   24
   Glucose
   195
   235
   120
   191
   185
   140
   Other labs: PT / PTT / INR:14.5/27.5/1.3, CK / CKMB / Troponin-T:367//,
   ALT / AST:27/22, Alk Phos / T Bili:87/0.2, Differential-Neuts:80.1 %,
   Lymph:11.6 %, Mono:4.2 %, Eos:3.9 %, Lactic Acid:1.8 mmol/L,
   Albumin:2.5 g/dL, LDH:148 IU/L, Ca++:7.4 mg/dL, Mg++:2.0 mg/dL, PO4:2.0
   mg/dL
   Assessment and Plan
   84 yom advanced dementia, recurrent aspiration PNA, and recurrent UTIs
   presents with fever and increasing respiratory distress.
   SEPSIS -- Improved.   Bacteremia, and possible urinary source (GNR),
   although concern remains for pneumonia ( infiltrates of LUL > RUL
   fields --> high risk for aspiration, with altered mental status and
   absence gag).  Also consider PEG tube site infecton.  Responded to
   current level of support.
   PULMONARY INFILTRATES -- evolved since admission.  [**Month (only) 60**] reflect
   "blossoming" of pneumonia in the context of dehydration and with
   resussitation of fluids.  Suspect pneumonia, aspiration.  No evidence
   for influenza.  Plan continue antimicrobials.  Await culture results,
   respiratory and urinary antigens.
   ALTERED MENTAL STATUS -- Much improved since admission.  Reportedly
   with baseline of non-communicative to poorly communicative (reportedly
   able to answer with "yes" or "no").  Worsening currently may be due in
   part to infection/sepsis (toxic-metabolic), hypernatremia.  Consider
   possibility of post-ictal, but no obvious seizure activity noted.
   Doubt meningitis or encephalitis.  Would d/c scopalamine patch.
   Monitor mental status.
   BACTEREMIA -- GPC.  Await speciation.  Continue antimicrobials.
   Consider cardiac echo.
   HYPOTENSION -- attributed to hypovolemia and sepsis.  Consider
   component of adrenal insufficiency.  Improved with iv fluids.  Monitor
   BP, maintain MAP > 60 mmHg
   RENAL FUNCTION -- insufficiency attributed to pre-renal state
   (hypovolemia, sepsis).  Improved.
   ELEVATED CPK
 monitor serial CPK, recheck LFTs, cardiac enzymes.
   FLUIDS -- hypovolemia.  Continue net fluid resussitation.  Currently
   peripheral iv's.
   HYPERNATREMIA -- recurrent, attributed to relative free water loss.
   Replete free water (based on free water deficit), monitor Na.
   LACTIC ACIDOSIS -- attributed to sepsis, hypoperfusion.   Resolved.
   h/o SEIZURE DISORDER -- no apparent active disease.  Continue
   anticonvulsant (phenobarbitol), check level.  Consider EEG if fails to
   return to baseline mental status.
   NUTRITIONAL SUPPORT -- TF.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2196-10-20**] 05:30 PM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2196-10-20**] 03:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 45 minutes

2196-10-22 07:18:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 CALLED OUT
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2196-10-21**] 08:09 AM
   Linezolid - [**2196-10-21**] 09:27 PM
   Piperacillin/Tazobactam (Zosyn) - [**2196-10-22**] 03:52 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2196-10-22**] 12:17 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-10-22**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.9
C (98.4
   HR: 78 (66 - 108) bpm
   BP: 125/60(68) {80/29(50) - 135/86(95)} mmHg
   RR: 24 (17 - 33) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 93.6 kg (admission): 83.1 kg
   Height: 70 Inch
             Total In:
                                                                  4,274 mL
                                                                    981 mL
   PO:
             TF:
                                                                  1,346 mL
                                                                    509 mL
   IVF:
                                                                  2,489 mL
                                                                    173 mL
   Blood products:
   Total out:
                                                                  1,855 mL
                                                                  1,620 mL
   Urine:
                                                                  1,855 mL
                                                                    920 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,419 mL
                                                                   -639 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 96%
   ABG: ///22/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   BL) R > L expiratory wheeze
   Abdominal: Soft, Non-tender, PEG with unchanged erthema, ventral hernia
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): xo,
   Movement: Not assessed, Tone: Increased
   Labs / Radiology
   191 K/uL
   8.8 g/dL
   181 mg/dL
   0.7 mg/dL
   22 mEq/L
   3.8 mEq/L
   16 mg/dL
   110 mEq/L
   140 mEq/L
   26.9 %
   9.5 K/uL
        [image002.jpg]
                            [**2196-10-18**]  06:00 PM
                            [**2196-10-18**]  08:28 PM
                            [**2196-10-18**]  09:00 PM
                            [**2196-10-19**]  04:29 AM
                            [**2196-10-19**]  02:54 PM
                            [**2196-10-19**]  08:10 PM
                            [**2196-10-20**]  08:58 AM
                            [**2196-10-21**]  03:55 AM
                            [**2196-10-22**]  03:19 AM
   WBC
   17.0
   10.4
   6.9
   9.5
   Hct
   31.9
   29.0
   26.9
   26.9
   Plt
   [**Telephone/Fax (3) 10707**]91
   Cr
   1.0
   0.8
   1.0
   0.7
   0.6
   0.7
   TCO2
   27
   24
   Glucose
   195
   235
   120
   191
   185
   140
   181
   Other labs: PT / PTT / INR:14.1/28.5/1.2, CK / CKMB / Troponin-T:367//,
   ALT / AST:27/22, Alk Phos / T Bili:87/0.2, Differential-Neuts:80.1 %,
   Lymph:11.6 %, Mono:4.2 %, Eos:3.9 %, Lactic Acid:1.8 mmol/L,
   Albumin:2.5 g/dL, LDH:148 IU/L, Ca++:7.4 mg/dL, Mg++:1.7 mg/dL, PO4:2.0
   mg/dL
   Assessment and Plan
   #. Sepsis. Most likely [**1-25**] Aspiration PNA  based on presentation with
   cough, sputum production / infiltrates, and history of aspiraiton PNA.
   WBC continues to downtrend.  Afebrile last 24 hrs.  Strep, Staph, and
   Pseudomonas on Sputum, unclear if represents new infection or
   colonization. Stable on FiO2 35% face tent.  UTI also possible source
   Urine with  GNR in urine.
    - continue treatment with Linezolid (allergy to vanco) and zosyn
   - d/c  Cipro as no GNR in sputum.
   - albuterol/ipratropium nebs PRN
   - f/u sputum, urine, blood cultures
   - Lactate normalized after further IVF
   - aspiration precautions
   - recheck Urine cult as remains cloudy.
   # Bacteremia: Coag neg staph in blood cultures.  Contamination vs
   possible infection
   - continue Linezolid
   - f./u blood cultures
   - if continues to be positive consider Echo.
   .
   #.  Hypernatremia: Resolved with IVF.
   - continue free water flushes
   - continue tube feeds.
   .
   #. Seizure disorder, since age 15. Chronically on Phenobarbital.
   - continue phenobarbital
   .
   # elevated CK. Normal on admission.  Check in setinf of urobili on UA
   without RBC.
   - recheck UA
   - trend CK
   .
   #. Dementia. Per [**Hospital3 **] able to speak in short sentences
   although disoriented. worsening MS likely [**1-25**] to infection /
   dehydration. Now improved. Able to answer in yes/no fashion, appears at
   baseline.
   - frequent reorientation, minimize disruption to sleep wake cycle.
   - trend MS.
   - avoid anticholinergics such as  scopolamine patch
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2196-10-20**] 05:30 PM 60 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2196-10-20**] 03:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR (do not resuscitate)
   Disposition:Transfer to floor